US07790709B2
Preparation of (E)-3-[6-Amino-5-(4-methyl-piperazin-1-ylmethyl) pyridin-3-yl]-N-(3-methoxy-2-propoxy-benzyl)-N-methyl-acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-[6-amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting (3-methoxy-2-propoxy-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (50 mg, 6%) was prepared as an off-white solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.6 (br s, 1H), 8.16 (d, J=9.2 Hz, 1H), 7.86 (s, 1H), 7.43 (d, J=15.2 Hz, 1H), 7.08-6.93 (m, 3H), 6.70-6.63 (m, 3H), 4.77-4.63 (m, 2H), 3.87 (q, J=6.8 Hz, 2H), 3.79 (s, 3H), 3.48-3.31 (m, 5H), 3.09-2.86 (m, 6H), 2.72 (s, 3H), 2.44-2.35 (m, 2H), 1.71 (app sextet, J=7.0 Hz, 2H), 0.98 (t, J=7.3 Hz, 3H); MS (ESI) m/e 468 (M+H)+.

reactant | (E)-3-[6-amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCN(CC1)C
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (3-methoxy-2-propoxy-benzyl)methylamine | COC=1C(=C(CCN)C=CC1)OCCC | C12H19NO2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-[6-Amino-5-(4-methyl-piperazin-1-ylmethyl) pyridin-3-yl]-N-(3-methoxy-2-propoxy-benzyl)-N-methyl-acrylamide hydrochloride | 50 mg, 6% | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(C)CC1=C(C(=CC=C1)OC)OCCC)CN1CCN(CC1)C | InChI=1S/C26H37N5O3.ClH/c1-5-15-34-25-21(7-6-8-23(25)33-4)18-30(3)24(32)10-9-20-16-22(26(27)28-17-20)19-31-13-11-29(2)12-14-31;/h6-10,16-17H,5,11-15,18-19H2,1-4H3,(H2,27,28);1H/b10-9+;
